US04937252
Preparation of 3-phenylmethyl-2-thiazolidinone
A solution containing 33.6 g (0.2 mol) of N-phenylmethylcysteamine and 42.8 g (0.2 mol) of diphenyl carbonate in 200 ml of ethanol is refluxed under nitrogen for 24 hours, then ethanol is evaporated under reduced pressure. The residue is taken up in ethyl acetate, washed with 2N sodium hydroxide solution until it becomes free of phenol, then washed with water, dried and evaporated. The residue is distilled under reduced pressure to give 21.8 g (56.4%) of the title compound, b.p.: 140° C./1.5 Hgmm, which solidifies under petroleum ether, m.p.: 50°-51° C.

reactant | N-phenylmethylcysteamine | 0.2 mol, 33.6 g | C1(=CC=CC=C1)CNCCS | C9H13NS
reactant | diphenyl carbonate | 0.2 mol, 42.8 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-phenylmethyl-2-thiazolidinone | 21.8 g, 56.4% | C1(=CC=CC=C1)CN1C(SCC1)=O | C10H11NOS
